Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
cardiac arrest
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo woman with history of dyslipidemia, had a witnessed 
cardiac arrest in ___ with bystander CPR. She 
was transported to the ED where she was found to have 
hypotension and STEMI. She arrested and received CPR for at 
least 40 minutes, s/p multiple shocks, boluses of epinephrine 
and antiarrhythmic, as well as transcutaneous pacing over a 
period of 40 minutes. ROSC was established and IABP was inserted 
at the bedside in the ED via left femoral artery. She was 
urgently transported to the cath lab where she had multiple 
episodes of pulseless VT/VF requiring defibrillation. The ___ 
automated CPR device was attached and diagnostic angiography was 
performed through left femoral. Blood pressure was 40-50 mmHg 
with IABP augmentation, on levophed and epinephrine drips. LHC 
showed LMCA with acute complete thrombotic occlusion with no 
flow to LAD and CX, RCA with mild irregularities. The decision 
was to open LMCA; crossed with wire into distal LAD, restored 
flow with a 2.5 mm balloon, dilated with a 3 mm balloon, blood 
pressure improved and CPR stopped. A stent was deployed with 
subsequent improvement in BP, allowing to wean epi. Concern for 
distal embolization. She was loaded with Plavix 600 mg after 
PCI.She was noted to be bradycardic in ___; temp wire placement 
was attempted but was not successful. She is transcutaneously 
paced. She is on no sedation, and has no movement whatsoever. 

Decision was to transfer to ___ with med flight for further 
management. 

On arrival to the CCU: Patient was intubated. Not sedated, with 
no movements whatsoever. She was paced, with probable no 
underlying asystole. Augmented blood pressure in the 40's on 3 
pressors (levophed, epinephrine, and vasopressin).

 
Past Medical History:
- Diabetes  
- Hypertension  
- Dyslipidemia  

 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
VS: T 80, paced at 100, augmented BP 40's, intubated
GENERAL: Intubated, no movement.  
HEENT: Normocephalic atraumatic. Pupils fixed and dilated, pale. 
 
CARDIAC: No heart sounds could be heard.  
LUNGS: No chest wall deformities or tenderness. Lungs clear 
anteriorly with wheezing.  
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Cold, no pulses appreciable. No clubbing, cyanosis, 
or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses not palpable.  

DISCHARGE PHYSICAL EXAM
===========================
Expired
 
Pertinent Results:
ADMISSION LABS
=====================
___ 02:28PM BLOOD WBC-9.0 RBC-2.15* Hgb-7.1* Hct-24.9* 
MCV-116* MCH-33.0* MCHC-28.5* RDW-12.7 RDWSD-54.2* Plt Ct-53*
___ 02:28PM BLOOD Glucose-571* UreaN-20 Creat-1.0 Na-157* 
K-9.1* Cl-108 HCO3-11* AnGap-38*
___ 02:28PM BLOOD ALT-819* AST-586* AlkPhos-41 TotBili-<0.2
___ 02:28PM BLOOD Calcium-8.5 Phos-13.0* Mg-2.8*
___ 03:03PM BLOOD Type-ART pO2-40* pCO2-214* pH-6.49* 
calTCO2-21 Base XS--33
___ 03:03PM BLOOD Lactate-8.9*

DISCHARGE LABS
========================
None
 
Brief Hospital Course:
___ yo woman with history of dyslipidemia, had a witnessed 
cardiac arrest in ___ with bystander CPR, taker 
urgently to ED and found to have STEMI and shock requiring 
levophed and epi, cardiac arrest in ED with ROSC after 40 
minutes, s/p IABP in ED at bedside. She was transferred urgently 
to cath lab, had multiple VT/VF arrests en route, followed by 
cath showing left main complete occlusion s/p balloon 
angioplasty and DES. We planned on Medflight into ___.
She then became progressively bradycardic. A trans venous pacer 
wire could not be passed via the right femoral vein nor the 
right internal jugular vein. She was deeply sedated and 
transcutaneously paced. She was transferred to ___. In 
MedFlight her pacing was temporarily halted and she was noted to 
be asystolic.  On arrival she did not have a perfusing rhythm. 
The IABP was triggering off of the pacing spikes. Pupils were 
fixed and dilated and the patient had expired. 
 
Medications on Admission:
Metformin
Crestor
Losartan
Omeprazole
Zetia

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___